US07667039B2
4-Pyrazol-1-yl-phenylamine
The title compound is obtained as described in Example 18a/b using 1-fluoro-4-nitro-benzene (Fluka, Buchs, Switzerland) and 1H-pyrazole (Fluka, Buchs, Switzerland). Title compound: ES-MS: 160.2 (M+H)+; analytical HPLC: tret=3.61 minutes (Grad 2).

reactant | 1-fluoro-4-nitro-benzene | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | 1H-pyrazole | N1N=CC=C1 | C3H4N2
product | 4-Pyrazol-1-yl-phenylamine | N1(N=CC=C1)C1=CC=C(C=C1)N | C9H9N3
